US05102877
To a solution of (trimethylsilyl)acetylene (23.75 ml) in tetrahydrofuran (250 ml) was added a 1.6M solution of butyllithium in hexane (105 ml) below -60° C. After stirring for one hour, a solution of 2-(N-allyloxycarbonyl-N-benzylamino)acetaldehyde (32.86 g) in tetrahydrofuran (30 ml) was added to the mixture below -60° C. The solution was stirred at the same condition for one hour and an aqueous saturated ammonium chloride (100 ml) was added to the reaction mixture below -60° C. After stirring at the ambient temperature for one hour, ethyl acetate (300 ml) was poured into the mixture. The solution was washed with brine (150 ml×2), dried over magnesium sulfate, and concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (300 g) and eluted with a mixture of hexane and ethyl acetate (9:1, V/V) to give 1-(N-allyloxycarbonyl-N-benzylamino)-4-trimethylsilyl-3-butyn-2-ol (19.77 g) as a syrup.

reactant | (trimethylsilyl)acetylene | 23.75 ml | C[Si](C)(C)C#C | C5H10Si
reactant | butyllithium | C(CCC)[Li]
reactant | 2-(N-allyloxycarbonyl-N-benzylamino)acetaldehyde | 32.86 g | C(C=C)OC(=O)N(CC1=CC=CC=C1)CC=O | C13H15NO3
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | hexane | 105 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 1-(N-allyloxycarbonyl-N-benzylamino)-4-trimethylsilyl-3-butyn-2-ol | 19.77 g | C(C=C)OC(=O)N(CC1=CC=CC=C1)CC(C#C[Si](C)(C)C)O | C18H25NO3Si
